.title kicad schematic

* u73 7 plot_v1
* u63 net-_u53-pad2_ 7 dac_bridge_1
* u52 net-_u42-pad3_ net-_u52-pad2_ d_inverter
* u62 net-_u52-pad2_ 6 dac_bridge_1
* u72 6 plot_v1
* u53 net-_u43-pad3_ net-_u53-pad2_ d_inverter
* u46 net-_u46-pad1_ net-_u46-pad2_ net-_u46-pad3_ d_and
* u56 net-_u46-pad3_ net-_u56-pad2_ d_inverter
* u42 net-_u27-pad3_ net-_u28-pad3_ net-_u42-pad3_ d_and
* u43 net-_u29-pad3_ net-_u30-pad3_ net-_u43-pad3_ d_and
* u74 8 plot_v1
* u65 net-_u55-pad2_ 9 dac_bridge_1
* u75 9 plot_v1
* u64 net-_u54-pad2_ 8 dac_bridge_1
* u54 net-_u44-pad3_ net-_u54-pad2_ d_inverter
* u44 net-_u31-pad3_ net-_u32-pad3_ net-_u44-pad3_ d_and
* u45 net-_u33-pad3_ net-_u34-pad3_ net-_u45-pad3_ d_and
* u55 net-_u45-pad3_ net-_u55-pad2_ d_inverter
* u76 10 plot_v1
* u66 net-_u56-pad2_ 10 dac_bridge_1
* u32 net-_u28-pad1_ net-_u1-pad2_ net-_u32-pad3_ d_and
* u36 net-_u36-pad1_ net-_u1-pad2_ net-_u46-pad2_ d_and
* u33 net-_u13-pad2_ net-_u23-pad2_ net-_u33-pad3_ d_and
* u34 net-_u28-pad1_ net-_u1-pad2_ net-_u34-pad3_ d_and
* u35 net-_u16-pad2_ net-_u12-pad2_ net-_u46-pad1_ d_and
* u30 net-_u28-pad1_ net-_u1-pad2_ net-_u30-pad3_ d_and
* u28 net-_u28-pad1_ net-_u1-pad2_ net-_u28-pad3_ d_and
* u29 net-_u13-pad2_ net-_u12-pad2_ net-_u29-pad3_ d_and
* u31 net-_u16-pad2_ net-_u23-pad2_ net-_u31-pad3_ d_and
* u27 net-_u16-pad2_ net-_u12-pad2_ net-_u27-pad3_ d_and
v1 12 gnd pulse(0 5 0 10n 10n 4m 8m)
v2 13 gnd pulse(5 0 0 10n 10n 4m 8m)
* u14 15 plot_v1
* u10 14 plot_v1
* u15 15 net-_u15-pad2_ adc_bridge_1
* u11 14 net-_u11-pad2_ adc_bridge_1
* u6 13 plot_v1
* u7 13 net-_u7-pad2_ adc_bridge_1
v4 15 gnd pulse(0 5 0 10n 10n 1m 2m)
v3 14 gnd pulse(0 5 0 10n 10n 2m 4m)
* u3 12 net-_u3-pad2_ adc_bridge_1
* u4 net-_u3-pad2_ net-_u4-pad2_ d_inverter
* u2 12 plot_v1
* u12 net-_u11-pad2_ net-_u12-pad2_ d_inverter
* u8 net-_u7-pad2_ net-_u28-pad1_ d_inverter
* u16 net-_u15-pad2_ net-_u16-pad2_ d_inverter
* u13 net-_u13-pad1_ net-_u13-pad2_ d_buffer
* u80 net-_u16-pad2_ net-_u13-pad1_ d_inverter
* u9 net-_u79-pad2_ net-_u23-pad2_ d_buffer
* u79 net-_u12-pad2_ net-_u79-pad2_ d_inverter
* u1 net-_u1-pad1_ net-_u1-pad2_ d_buffer
* u77 net-_u4-pad2_ net-_u1-pad1_ d_inverter
* u78 net-_u28-pad1_ net-_u5-pad1_ d_inverter
* u5 net-_u5-pad1_ net-_u36-pad1_ d_buffer
* u22 net-_u36-pad1_ net-_u4-pad2_ net-_u22-pad3_ d_and
* u21 net-_u13-pad2_ net-_u12-pad2_ net-_u21-pad3_ d_and
* u23 net-_u16-pad2_ net-_u23-pad2_ net-_u40-pad1_ d_and
* u24 net-_u36-pad1_ net-_u4-pad2_ net-_u24-pad3_ d_and
* u25 net-_u13-pad2_ net-_u23-pad2_ net-_u25-pad3_ d_and
* u26 net-_u36-pad1_ net-_u4-pad2_ net-_u41-pad2_ d_and
* u20 net-_u36-pad1_ net-_u4-pad2_ net-_u38-pad2_ d_and
* u19 net-_u16-pad2_ net-_u12-pad2_ net-_u38-pad1_ d_and
* u17 net-_u13-pad2_ net-_u23-pad2_ net-_u37-pad1_ d_and
* u18 net-_u28-pad1_ net-_u4-pad2_ net-_u37-pad2_ d_and
* u47 net-_u37-pad3_ net-_u47-pad2_ d_inverter
* u37 net-_u37-pad1_ net-_u37-pad2_ net-_u37-pad3_ d_and
* u39 net-_u21-pad3_ net-_u22-pad3_ net-_u39-pad3_ d_and
* u38 net-_u38-pad1_ net-_u38-pad2_ net-_u38-pad3_ d_and
* u49 net-_u39-pad3_ net-_u49-pad2_ d_inverter
* u48 net-_u38-pad3_ net-_u48-pad2_ d_inverter
* u50 net-_u40-pad3_ net-_u60-pad1_ d_inverter
* u40 net-_u40-pad1_ net-_u24-pad3_ net-_u40-pad3_ d_and
* u51 net-_u41-pad3_ net-_u51-pad2_ d_inverter
* u41 net-_u25-pad3_ net-_u41-pad2_ net-_u41-pad3_ d_and
* u69 3 plot_v1
* u60 net-_u60-pad1_ 4 dac_bridge_1
* u59 net-_u49-pad2_ 3 dac_bridge_1
* u67 1 plot_v1
* u57 net-_u47-pad2_ 1 dac_bridge_1
* u58 net-_u48-pad2_ 2 dac_bridge_1
* u68 2 plot_v1
* u70 4 plot_v1
* u71 5 plot_v1
* u61 net-_u51-pad2_ 5 dac_bridge_1
a1 [net-_u53-pad2_ ] [7 ] u63
a2 net-_u42-pad3_ net-_u52-pad2_ u52
a3 [net-_u52-pad2_ ] [6 ] u62
a4 net-_u43-pad3_ net-_u53-pad2_ u53
a5 [net-_u46-pad1_ net-_u46-pad2_ ] net-_u46-pad3_ u46
a6 net-_u46-pad3_ net-_u56-pad2_ u56
a7 [net-_u27-pad3_ net-_u28-pad3_ ] net-_u42-pad3_ u42
a8 [net-_u29-pad3_ net-_u30-pad3_ ] net-_u43-pad3_ u43
a9 [net-_u55-pad2_ ] [9 ] u65
a10 [net-_u54-pad2_ ] [8 ] u64
a11 net-_u44-pad3_ net-_u54-pad2_ u54
a12 [net-_u31-pad3_ net-_u32-pad3_ ] net-_u44-pad3_ u44
a13 [net-_u33-pad3_ net-_u34-pad3_ ] net-_u45-pad3_ u45
a14 net-_u45-pad3_ net-_u55-pad2_ u55
a15 [net-_u56-pad2_ ] [10 ] u66
a16 [net-_u28-pad1_ net-_u1-pad2_ ] net-_u32-pad3_ u32
a17 [net-_u36-pad1_ net-_u1-pad2_ ] net-_u46-pad2_ u36
a18 [net-_u13-pad2_ net-_u23-pad2_ ] net-_u33-pad3_ u33
a19 [net-_u28-pad1_ net-_u1-pad2_ ] net-_u34-pad3_ u34
a20 [net-_u16-pad2_ net-_u12-pad2_ ] net-_u46-pad1_ u35
a21 [net-_u28-pad1_ net-_u1-pad2_ ] net-_u30-pad3_ u30
a22 [net-_u28-pad1_ net-_u1-pad2_ ] net-_u28-pad3_ u28
a23 [net-_u13-pad2_ net-_u12-pad2_ ] net-_u29-pad3_ u29
a24 [net-_u16-pad2_ net-_u23-pad2_ ] net-_u31-pad3_ u31
a25 [net-_u16-pad2_ net-_u12-pad2_ ] net-_u27-pad3_ u27
a26 [15 ] [net-_u15-pad2_ ] u15
a27 [14 ] [net-_u11-pad2_ ] u11
a28 [13 ] [net-_u7-pad2_ ] u7
a29 [12 ] [net-_u3-pad2_ ] u3
a30 net-_u3-pad2_ net-_u4-pad2_ u4
a31 net-_u11-pad2_ net-_u12-pad2_ u12
a32 net-_u7-pad2_ net-_u28-pad1_ u8
a33 net-_u15-pad2_ net-_u16-pad2_ u16
a34 net-_u13-pad1_ net-_u13-pad2_ u13
a35 net-_u16-pad2_ net-_u13-pad1_ u80
a36 net-_u79-pad2_ net-_u23-pad2_ u9
a37 net-_u12-pad2_ net-_u79-pad2_ u79
a38 net-_u1-pad1_ net-_u1-pad2_ u1
a39 net-_u4-pad2_ net-_u1-pad1_ u77
a40 net-_u28-pad1_ net-_u5-pad1_ u78
a41 net-_u5-pad1_ net-_u36-pad1_ u5
a42 [net-_u36-pad1_ net-_u4-pad2_ ] net-_u22-pad3_ u22
a43 [net-_u13-pad2_ net-_u12-pad2_ ] net-_u21-pad3_ u21
a44 [net-_u16-pad2_ net-_u23-pad2_ ] net-_u40-pad1_ u23
a45 [net-_u36-pad1_ net-_u4-pad2_ ] net-_u24-pad3_ u24
a46 [net-_u13-pad2_ net-_u23-pad2_ ] net-_u25-pad3_ u25
a47 [net-_u36-pad1_ net-_u4-pad2_ ] net-_u41-pad2_ u26
a48 [net-_u36-pad1_ net-_u4-pad2_ ] net-_u38-pad2_ u20
a49 [net-_u16-pad2_ net-_u12-pad2_ ] net-_u38-pad1_ u19
a50 [net-_u13-pad2_ net-_u23-pad2_ ] net-_u37-pad1_ u17
a51 [net-_u28-pad1_ net-_u4-pad2_ ] net-_u37-pad2_ u18
a52 net-_u37-pad3_ net-_u47-pad2_ u47
a53 [net-_u37-pad1_ net-_u37-pad2_ ] net-_u37-pad3_ u37
a54 [net-_u21-pad3_ net-_u22-pad3_ ] net-_u39-pad3_ u39
a55 [net-_u38-pad1_ net-_u38-pad2_ ] net-_u38-pad3_ u38
a56 net-_u39-pad3_ net-_u49-pad2_ u49
a57 net-_u38-pad3_ net-_u48-pad2_ u48
a58 net-_u40-pad3_ net-_u60-pad1_ u50
a59 [net-_u40-pad1_ net-_u24-pad3_ ] net-_u40-pad3_ u40
a60 net-_u41-pad3_ net-_u51-pad2_ u51
a61 [net-_u25-pad3_ net-_u41-pad2_ ] net-_u41-pad3_ u41
a62 [net-_u60-pad1_ ] [4 ] u60
a63 [net-_u49-pad2_ ] [3 ] u59
a64 [net-_u47-pad2_ ] [1 ] u57
a65 [net-_u48-pad2_ ] [2 ] u58
a66 [net-_u51-pad2_ ] [5 ] u61
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u63 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u52 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u62 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u53 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u46 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u56 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u42 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u43 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u65 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u64 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u54 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u44 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u45 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u55 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u66 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u32 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u36 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u33 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u34 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u35 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u30 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u28 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u29 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u31 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u27 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u15 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u11 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u7 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             adc_bridge_1, Ngspice Name: adc_bridge
.model u3 adc_bridge(in_low=1.0 in_high=2.0 rise_delay=1.0e-9 fall_delay=1.0e-9 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u4 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u12 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u8 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u16 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u13 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u80 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u9 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u79 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u1 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u77 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u78 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_buffer, Ngspice Name: d_buffer
.model u5 d_buffer(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u22 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u21 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u23 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u24 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u25 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u26 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u20 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u19 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u17 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u18 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u47 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u37 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u39 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u38 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u49 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u48 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u50 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u40 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_inverter, Ngspice Name: d_inverter
.model u51 d_inverter(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             d_and, Ngspice Name: d_and
.model u41 d_and(rise_delay=1.0e-9 fall_delay=1.0e-9 input_load=1.0e-12 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u60 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u59 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u57 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u58 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
* Schematic Name:                             dac_bridge_1, Ngspice Name: dac_bridge
.model u61 dac_bridge(out_low=0.0 out_high=5.0 out_undef=0.5 input_load=1.0e-12 t_rise=1.0e-9 t_fall=1.0e-9 ) 
.tran 0.01e-03 8e-03 0e-03

* Control Statements 
.control
run
print allv > plot_data_v.txt
print alli > plot_data_i.txt
plot v(7)
plot v(6)
plot v(8)
plot v(9)
plot v(10)
plot v(15)
plot v(14)
plot v(13)
plot v(12)
plot v(3)
plot v(1)
plot v(2)
plot v(4)
plot v(5)
.endc
.end
